US07622579B2
[1-(3-Trifluoromethyl-phenyl)-piperidin-4-yl]-morpholin-4-yl-methanone
The title compound was prepared from commercially available ethyl isonipecotate, 3-(trifluoromethyl)-bromobenzene as the aryl halide, and morpholine as the secondary amine utilizing general procedures A and B described above. 1H NMR (300 MHz, CDCl3) 1H NMR (CDCl3) δ 7.34 (dd, J=7.6, 8.6 Hz, 1H), 7.11-7.05 (m, 3H), 3.80 (m, 1H), 3.76 (m, 1H), 3.70-3.54 (m, 8H), 2.81 (dt, J=2.7, 12.4 Hz, 2H), 2.67-2.57 (m, 1H), 2.09 (dd, J=4.2, 13.4 Hz, 1H), 2.00 (dd, J=4.0, 11.7 Hz, 1H), 1.85 (m, 1H), 1.81 (m, 1H). ESI MS: 343.4 (MH+).

reactant | ethyl isonipecotate | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 3-(trifluoromethyl)-bromobenzene | FC(C=1C=C(C=CC1)Br)(F)F | C7H4BrF3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | [1-(3-Trifluoromethyl-phenyl)-piperidin-4-yl]-morpholin-4-yl-methanone | FC(C=1C=C(C=CC1)N1CCC(CC1)C(=O)N1CCOCC1)(F)F | C17H21F3N2O2
